US04022807
A solution of ethyl bromide (1.75 g.) in diethyl ether was added to a suspension of magnesium (0.385 g.) in ether and the mixture was heated to reflux for 30 minutes. A solution of the alcohol, 3-hydroxy-3,7-dimethyl-nona-4,6,8-trien-1-yne, (1.0 g.) in dry benzene was added and the mixture refluxed 30 minutes. A solution of 2,2,6-trimethylcyclohexanone (1.12 g.) in benzene was added and the mixture refluxed for 15 minutes and poured into saturated aqueous ammonium chloride solution. The organic phase was washed with brine dried and concentrated to give 7-hydroxy-3,7-dimethyl-9-(1-hydroxy-2,2,6-trimethylcyclohexyl)-nona-1,3,5-trien-8-yne which was chromatographed on activity III alumina to give pure 7-hydroxy-3,7-dimethyl-9-(1-hydroxy-2,2,6-trimethylcycohexyl)-nona-1,3,5-trien-8-yne.

reactant | ethyl bromide | 1.75 g | C(C)Br | C2H5Br
reactant | magnesium | 0.385 g | [Mg] | Mg
reactant | 3-hydroxy-3,7-dimethyl-nona-4,6,8-trien-1-yne | OC(C#C)(C=CC=C(C=C)C)C | C11H14O
reactant | 2,2,6-trimethylcyclohexanone | 1.12 g | CC1(C(C(CCC1)C)=O)C | C9H16O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-hydroxy-3,7-dimethyl-9-(1-hydroxy-2,2,6-trimethylcyclohexyl)-nona-1,3,5-trien-8-yne | OC(C=CC=C(C=C)C)(C#CC1(C(CCCC1C)(C)C)O)C | C20H30O2
